US03944567
Alternatively 5.7 grams of 4,5,6,7-tetrahydrobenzo-[b]thien-4-amine hydrochloride is stirred in 20 ml. of toluene at 97°C., and phosgene is slowly introduced into the mixture via a capillary delivery tube. The mixture is heated to reflux temperature, and the flow of phosgene is continued until most of the amine hydrochloride disappears. The mixture is then filtered to remove unreacted amine hydrochloride, and the filtrate is evaporated to dryness under reduced pressure to give the 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate.

reactant | 4,5,6,7-tetrahydrobenzo-[b]thien-4-amine hydrochloride | 5.7 grams | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
